US05646173
An ozone stream (2 g ozone/hour) was conducted for 40 minutes while stirring through a solution, cooled to -70°, of 5.3 g of (RS)-2-(2-buten-1-yl)-5,6-difluoro-1-indanone in 125 ml of anhydrous dichloromethane and 25 ml of anhydrous methanol. Subsequently, the mixture was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 2.64 ml of dimethyl sulfide, the mixture was stirred at room temperature for 16 hours. The reaction mixture was evaporated in a vacuum, the residue was treated with 60 ml of dichoromethane and, after the addition of 10 ml of water and 10 ml of trifluoroacetic acid, stirred at room temperature for 2 hours. The mixture was subsequently poured into 80 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 40 ml of water were added, the phases were separated and the aqueous phase was extracted twice with 100 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. There was obtained a yellow oil which was crystallized from diethyl ether/hexane. 3.82 g (76%) of (RS)-2-(2-oxoethyl)-5,6-difluoro-1-indanone were obtained as a white solid with m.p. 78°-81°.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 2 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-5,6-difluoro-1-indanone | 5.3 g | C(C=CC)C1C(C2=CC(=C(C=C2C1)F)F)=O | C13H12F2O
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
solvent | methanol | 25 ml | CO | CH4O
product | (RS)-2-(2-oxoethyl)-5,6-difluoro-1-indanone | 3.82 g, 76% | O=CCC1C(C2=CC(=C(C=C2C1)F)F)=O | C11H8F2O2
